US05578244
Preparation of 4-(2-(4-(4-n-pentyl-4-silacyclohexyl)phenyl)ethyl-2',3'-difluoro-4'-n-propoxybiphenyl
6.5 g (20 mmol) of 4-(4-n-pentyl-4-silacyclohexyl)-1-bromobenzene was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 7.1 g (20 mmol) of 4-(2-bromoethyl)-2',3'-difluoro-4'-n-propoxybiphenyl and catalytic amounts of copper (I) iodide and triethylphosphite to obtain the crude product, which was a mixture of trans isomers and cis isomers with respect to the silacyclohexane ring. After a conventional after treatment, they were separated by means of chromatography to obtain 8. 3 g (yield 80%) of the target product, i.e. the trans isomer.

reactant | 4-(4-n-pentyl-4-silacyclohexyl)-1-bromobenzene | 20 mmol, 6.5 g | C(CCCC)[SiH]1CCC(CC1)C1=CC=C(C=C1)Br | C16H25BrSi
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4-(2-bromoethyl)-2',3'-difluoro-4'-n-propoxybiphenyl | 20 mmol, 7.1 g | BrCCC1=CC=C(C=C1)C1=C(C(=C(C=C1)OCCC)F)F | C17H17BrF2O
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
catalyst | copper (I) iodide | [Cu]I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-(4-n-pentyl-4-silacyclohexyl)phenyl)ethyl-2',3'-difluoro-4'-n-propoxybiphenyl | C(CCCC)[SiH]1CCC(CC1)C1=CC=C(C=C1)CCC1=C(C=CC=C1)C1=C(C(=C(C=C1)OCCC)F)F | C33H42F2OSi
